Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Levaquin
 
Attending: ___.
 
Chief Complaint:
Right leg pain after stationary bike accident
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ female with advanced ___,
chronic respiratory failure s/p tracheostomy (nocturnally 
ventilated), chronic aspiration with PEG, dementia, HTN, 
hyperlipidemia who presenting for pain in her right ankle and 
foot after a mechanical injury.

Report offered by her son, ___. Patient was on an automated 
exercise bike with help of son and a hoyer lift, her strap from 
her chair sling got caught in machine and her foot ended up 
getting pulled and hyperextended at the ankle joint. She as had 
pain and swelling since.  In the ED she was diagnosed with a 
distal fibula fracture (and ?tibial fracture).

Patient is trached in ___ secondary to failure to extubate
after being intubated for pneumonia, patient had failure to
manage secretions. In the ED, patient able to minimally
communicate, but did deny chest pain, abdominal pain, trouble
breathing. Per son patient has been making appropriate urine and
stool, normal nutritional intake.

Additional history limited due to patient's chronic condition. 
 
Past Medical History:
Per OMR:
 ___ Disease  
 HTN  
 HLD  
 Esophageal dysmotility  
 Bilateral blindness  
 Reactive airway disease  
 COPD, bronchiectasis  
 Hypothyroidism  
 Recurrent Aspiration s/p PEG placement 
 
Social History:
___
Family History:
Sons with heart disease per chart review
 
Physical Exam:
ADMISSION PHYSICAL EXAM 
=========================
Gen: Comfortable, No Acute Distress
HEENT: NC/AT. EOMI. 
Neck: No swelling. Trachea is midline.
Cor: RRR. No m/r/g. 
Pulm: CTAB, Nonlabored respirations. 
Abd: Soft, nontender, nondistended.
Ext: Tenderness to palpation of the right ankle and right dorsum
of the foot, purple discoloration and diffuse edema. Good
capillary refill. Neurovascularly intact, 4 out of 5 strength
with weakness likely secondary to pain.
Skin: No rashes. No skin breakdown
Neuro: AAOx3. Gross sensorimotor intact. 
Psych: Normal mentation. 
Heme: No petechiae. No ecchymosis.

DISCHARGE PHYSICAL EXAM 
HEENT: NC/AT. EOMI. 
Neck: No swelling. Trachea is midline. Trach mask 
Cor: RRR. No m/r/g. 
Pulm: CTAB, Nonlabored respirations. 
Abd: Soft, nontender, nondistended.
Ext:Right foot cast, CSM intact 
Skin: No rashes. No skin breakdown
Neuro: AAOx3. Gross sensorimotor intact. 
Psych: Normal mentation. 
Heme: No petechiae. No ecchymosis.

 
Pertinent Results:
COMPLETE BLOOD COUNT WBC RBC Hgb Hct MCV MCH MCHC RDW RDWSD Plt 
Ct 
___ 03:10AM    8.1 2.59* 7.7* 26.2* 101* 29.7 29.4* 14.7 
53.7* 158 Import Result 

 
___ 05:55PM    6.5 2.38* 7.1* 23.8* 100* 29.8 29.8* 14.6 
53.5* 148* Import Result 

 
___ 02:46AM    5.6 2.34* 7.1* 23.7* 101* 30.3 30.0* 15.2 
55.8* 173 Import Result 

 
___ 02:49AM    12.5* 2.62* 7.9* 25.8* 99* 30.2 30.6* 
14.9 53.7* 145* Import Result 

 
___ 06:37PM    11.8* 2.85* 8.6* 27.9* 98 30.2 30.8* 14.7 
53.3* 150 Import Result 

 
___ 10:39AM    7.9 2.52* 7.6* 24.7* 98 30.2 30.8* 14.8 
53.1* 113* Import Result 

 
___ 03:50AM    8.1 2.57* 7.7* 25.0* 97 30.0 30.8* 14.9 
53.1* 110* Import Result 

 
___ 03:37AM    10.4* 2.77* 8.3* 27.1* 98 30.0 30.6* 15.0 
54.0* 122* Import Result 

 
___ 08:00AM    14.0* 3.02* 9.0* 29.2* 97 29.8 30.8* 14.9 
53.1* 147* Import Result 

 
___ 08:20PM    17.1* 3.59* 10.9* 34.3 96 30.4 31.8* 14.7 
51.0* 186 Import Result  

___ 08:20PM BLOOD Neuts-86.0* Lymphs-10.2* Monos-2.7* 
Eos-0.4* Baso-0.2 Im ___ AbsNeut-14.72* AbsLymp-1.74 
AbsMono-0.47 AbsEos-0.06 AbsBaso-0.04

BASIC COAGULATION ___, PTT, PLT, INR) ___ PTT Plt Ct ___ 
___ 03:10AM        158   Import Result 

 
___ 03:10AM    13.1* 35.3   1.2* Import Result 

 
___ 05:55PM        148*   Import Result 

 
___ 02:46AM        173   Import Result 

 
___ 02:46AM    13.4* 27.3   1.2* Import Result 

 
___ 02:49AM        145*   Import Result 

 
___ 02:49AM    14.0* 35.4   1.3* Import Result 

 
___ 06:37PM        150   Import Result 

 
___ 10:39AM        113*   Import Result 

 
___ 03:50AM        110*   Import Result 

 
___ 03:37AM        122*   Import Result 

 
___ 03:37AM    15.4* 31.9   1.4* Import Result 

 
___ 08:00AM        147*   Import Result 

 
___ 08:20PM        186   Import Result 
 

Chemistry 
 RENAL & GLUCOSE Glucose UreaN Creat Na K Cl HCO3 AnGap 
___ 03:10AM    113* 17 0.3* 140 4.4 97 35* 8* Import 
Result 

 
___ 02:46AM    125* 15 0.4 139 4.1 96 30 13 Import 
Result 

 
___ 02:49AM    135* 16 0.3* 141 4.5 100 29 12 Import 
Result 

 
___ 03:50AM    115* 14 0.4 139 4.4 98 31 10 Import 
Result 

 
___ 03:37AM    123* 15 0.4 134* 4.0 96 28 10 Import 
Result 

 
___ 08:00AM    108* 17 0.4 136 4.6 98 27 11 Import 
Result 

 
___ 08:20PM    95 17 0.4 130* 4.0 91* 28 11 Import 
Result 

 
 ESTIMATED GFR (MDRD CALCULATION) estGFR 
___ 08:20PM    Using this Import Result 

 
 ENZYMES & BILIRUBIN ALT AST LD(LDH) CK(CPK) AlkPhos Amylase 
TotBili DirBili 
___ 03:37AM    9 22     67   0.8   Import Result 

 
 CHEMISTRY TotProt Albumin Globuln Calcium Phos Mg UricAcd Iron 
___ 03:10AM          9.1 3.4 2.3     Import Result 

 
___ 02:46AM          9.0 2.4* 2.1     Import Result 

 
___ 02:49AM          9.2 2.9 2.2     Import Result 

 
___ 06:37PM                  18* Import Result 

 
___ 03:50AM          9.1 2.6* 2.1     Import Result 

 
___ 03:37AM      3.7   9.3 2.8 2.0     Import Result 

 
___ 08:00AM          9.1 3.4 1.9     Import Result 

 
 HEMATOLOGIC calTIBC VitB12 Folate Ferritn TRF 
___ 06:37PM    263 868 >20 292* 202 Import Result 

 
 LAB USE ONLY LtGrnHD GreenHd HoldBLu 
___ 08:20PM        HOLD Import Result 

 
___ 08:20PM    HOLD     Import Result 

 
___ 08:20PM      HOLD   Import Result 

 
 LAB USE ONLY 
___ 03:10AM    Import Result 

 
___ 02:46AM    Import Result 

 
___ 02:49AM    Import Result 

 
___ 06:37PM    Import Result 

 
___ 03:50AM    Import Result 

 
___ 03:37AM    Import Result 

 
___ 08:00AM    Import Result 

 
___:20PM    Import Result 

 
 

Blood Gas 
 BLOOD GASES Type Temp Rates Tidal V PEEP FiO2 O2 Flow pO2 
Comment 
___ 03:34AM    ___               GREEN TOP Import Result 


 
 WHOLE BLOOD, MISCELLANEOUS CHEMISTRY Lactate 
___ 03:34AM    1.8 Import Result  
 

 
Brief Hospital Course:
Ms. ___ is a ___ female with advanced ___, 
chronic respiratory failure s/p trach, chronic aspiration with 
PEG, dementia, hypertension, hyperlipidemia who is presenting 
with distal fibula (?tibial as well) fracture and found to have 
concerns for UTI in the ED. She was admitted to the ICU given 
chronic respiratory failure and brief hypotension in the ED 
which responded to IVF.

#Comminuted distal fibula fracture
Presenting with distal fibula fracture after having trauma on
stationary bike. She was initially placed in a right lower 
extremity splint, which was subsequently casted by the 
orthopedics service. She received her home acetaminophen dose 
and oxycodone as needed for pain control. She has follow-up 
scheduled with orthopedics. 

#Hypotension, improved
Patient was briefly hypotensive in the ED with SBPs in the ___, 
Improved with 1L NS. Lactate within normal limits. Etiology 
likely either hypovolemia vs. sepsis. Given hyponatremia, 
possibly related to hypovolemia, especially given rapid 
improvement after small amount of IVF. Some concerns for UTI as 
noted below. 

#UTI
Patient found to have pyuria on UA in setting of leukocytosis. 
No other clear source of infection. She was given a 7 day course 
of ceftriaxone as treatment for urinary tract infection which 
was then transitioned to Keflex. 

#Chronic respiratory failure 
Respiratory status appears at baseline, patient has a 
tracheostomy. CXR without evidence of consolidation. Home 
settings on trach were continued with trach mask during the day 
and ventilator at night, and her home medications were 
continued. 

___: Her home carbidopa/levodopa regimen was continued. 
She had some episodes of agitation overnight and her outpatient 
neurologist Dr. ___ was consulted, who recommended an 
additional 1.5 tabs of Sinamet as needed at 3 am for agitation. 
This was noted to improve her agitation overnight. 

#Bradycardia: While in the ICU, the patient had intermittent 
episodes of sinus bradycardia overnight in the setting of being 
off the ventilator and while episodes of agitation. EKG showed 
no evidence of bundle branch block or heart block. This was 
thought to be secondary to the vasovagal episodes given timing 
with episodes of agitation as well as being off the ventilator. 
She did not have any hypotension during these episodes and 
continued to be monitored throughout her stay.  Her son, ___, 
expressed interest in a cardiology evaluation for which we 
provided him the contact information to schedule an outpatient 
appointment as her bradycardia resolved with improvement in 
agitation and pain control. 

 
Medications on Admission:
1. formoterol fumarate 20 mcg/2 mL inhalation BID 
2. Lansoprazole Oral Disintegrating Tab 30 mg PO BID 
3. Acetaminophen 500 mg PO Q6H:PRN Pain - Mild/Fever 
4. Carbidopa-Levodopa (___) 1.5 TAB PO DAILY 
5. Carbidopa-Levodopa (___) 2 TAB PO DAILY: 0700 
6. Clotrimazole Cream 1 Appl TP BID 
7. Ipratropium Bromide Neb 1 NEB IH Q6H 
8. Levalbuterol Neb 0.63 mg NEB Q6H 
9. Levothyroxine Sodium 25 mcg PO DAILY 
10. melatonin 3 mg oral QHS 
11. Multivitamins W/minerals 1 TAB PO DAILY 
12. OxyCODONE (Immediate Release) 2.5 mg PO Q6H:PRN Pain - 
Moderate 
13. Polyethylene Glycol 17 g PO DAILY 
14. Atorvastatin 20 mg PO QPM 
15. PredniSONE 10 mg PO DAILY 
16. Carbidopa-Levodopa (___) 2 TAB PO DAILY 
17. Carbidopa-Levodopa (___) 2 TAB PO DAILY 1600 
18. Carbidopa-Levodopa (___) 1 TAB PO DAILY 
19. Bisacodyl 10 mg PR QHS:PRN Constipation - Second Line 

 
Discharge Medications:
1.  Cephalexin 500 mg PO BID Duration: 2 Days 
Take 2 pills a day for the next two days (4 pills total)  
RX *cephalexin 500 mg 1 capsule(s) by mouth twice a day Disp #*4 
Capsule Refills:*0 
2.  Carbidopa-Levodopa (___) 2 TAB PO TID ___, 1300, 1600  
3.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild/Fever  
4.  Atorvastatin 20 mg PO QPM  
5.  Bisacodyl 10 mg PR QHS:PRN Constipation - Second Line  
6.  Carbidopa-Levodopa (___) 1.5 TAB PO DAILY  
7.  Carbidopa-Levodopa (___) 1 TAB PO DAILY  
8.  Clotrimazole Cream 1 Appl TP BID  
9.  formoterol fumarate 20 mcg/2 mL inhalation BID  
10.  Ipratropium Bromide Neb 1 NEB IH Q6H  
11.  Lansoprazole Oral Disintegrating Tab 30 mg PO BID  
12.  Levalbuterol Neb 0.63 mg NEB Q6H  
13.  Levothyroxine Sodium 25 mcg PO DAILY  
14.  melatonin 3 mg oral QHS  
15.  Multivitamins W/minerals 1 TAB PO DAILY  
16.  OxyCODONE (Immediate Release) 2.5 mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 0.5 (One half) tablet(s) by mouth q8hrs Disp 
#*10 Capsule Refills:*0 
17.  Polyethylene Glycol 17 g PO DAILY  
18.  PredniSONE 10 mg PO DAILY 
Prednisone was started on ___ for a thirty day course.   

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right fibular fracture 

 
Discharge Condition:
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
Level of Consciousness: Lethargic but arousable.
Mental Status: Confused - always.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to care for you at the ___ 
___.  

Why did I come to the hospital?  
You came to the hospital after you had an accident on a 
stationary bike while at home. 
  
What happened while I was in the hospital?  
You were found to have broken one of the bones in your right 
leg. This was put in a cast by the orthopedics doctors at the 
hospital. 

We did an analysis of your urine which was concerning for a 
urinary tract infection. You received antibiotics while in the 
hospital, and will have 2 more days of antibiotics to take while 
at home. 

You had a few episodes of slower heart rate while you were in 
the intensive care unit. You were monitored while in the unit 
and did not have any changes in your hemodynamic status such as 
low blood pressure. We did a scan of your heart (EKG) which did 
not show signs of a concerning heart rhythm. You should follow 
up with the cardiology clinic upon discharge. 
  
What should I do once I leave the hospital?  
 - Take your medications as prescribed and follow up with your 
doctor appointments, including orthopedics and cardiology 
- You will receive physical therapy and speech evaluation while 
at home 

We wish you the best!  
Your ___ Care Team  
 
Followup Instructions:
___